US07598289B2
Acetic acid 6-acetoxy-6-biphenyl-4-yl-hexyl ester (ABD-191)
1-Biphenyl-4-yl-hexan-1,6-diol (1 g) was dissolved in acetic anhydride (25 ml). Pyridine (5 ml) was added and the mixture stirred for 3 hrs at 50° C. The mixture was poured into water (200 ml), extracted with dichloromethane (100 ml), dried (Na2SO4) and evaporated to give the title compound as a thick oil. δC (CDCl3, 62.9 MHz): 21.0, 21.4, 25.2, 25.7, 28.5, 36.2, 64.4, 75.8, 127.0, 127.2, 127.3, 127.5, 128.8, 139.7, 140.8, 140.9 and 170.5.

reactant | 1-Biphenyl-4-yl-hexan-1,6-diol | 1 g | C1(=CC=C(C=C1)C(CCCCCO)O)C1=CC=CC=C1 | C18H22O2
reactant | Pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
reactant | water | 200 ml | O | H2O
reactant | acetic anhydride | 25 ml | C(C)(=O)OC(C)=O | C4H6O3
product | Acetic acid 6-acetoxy-6-biphenyl-4-yl-hexyl ester | C(C)(=O)OC(CCCCCOC(C)=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C22H26O4
